US06498165B1
2-[(S)-1-Phenylethylamino]-4-[5-(pyridin-3-yl)-benzimidazol-1-yl]pyrimidine
A stirred solution of 2-[(S)-1-phenylethylamino]-4-[5-(tributylstannyl)-benzimidazol-1-yl]pyrimidine (27 mg), 3-bromopyridine (44 μL) and tetrakis(triphenylphosphine)palladium(0) (0.5 mg) in DMF (4 mL) was heated and maintained at 100° C. overnight. The reaction mixture was cooled and transferred to a separatory funnel containing 100 mL ether plus 25 mL ethyl acetate. The organic layer was washed 3× with water and 1× with brine. The organic layer was dried over anhydrous MgSO4, filtered and concentrated. The product was purified by silica gel chromatography eluting with methanol in dichloromethane to give 9.1 mg of the title compound. Mass spectrum (ESI): 393.2 (M+1).

reactant | 2-[(S)-1-phenylethylamino]-4-[5-(tributylstannyl)-benzimidazol-1-yl]pyrimidine | 27 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)[Sn](CCCC)(CCCC)CCCC
reactant | 3-bromopyridine | 44 μL | BrC=1C=NC=CC1 | C5H4BrN
reactant | ether | 100 mL | CCOCC | C4H10O
reactant | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[(S)-1-Phenylethylamino]-4-[5-(pyridin-3-yl)-benzimidazol-1-yl]pyrimidine | 9.1 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C=2C=NC=CC2 | C24H20N6
